US05232938
Methyl-N-acetyl-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate
Methyl-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate-hydroiodide* (4 g) and triethylamine (2.5 g) were dissolved in dichloromethane (50 ml). To this solution acetyl chloride (1.05 g) was added slowly maintaining temperature below 20° C. The mixture was stirred at room temperature in a dry nitrogen atmosphere for 1.5 h. The organic residues were washed with water (5×20 ml), dried over anhydrous sodium sulphate and the solvent removed in vacuo giving a yellow solid which upon trituration with ether gave the title compound (2.30 g) as an off-white solid of m.pt. 102°-104° C.

reactant | Methyl-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate-hydroiodide | I.CSC(=N)N(N=CC1=CC=CC=C1)C
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.05 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl-N-acetyl-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioate | 2.30 g | CSC(=NC(C)=O)N(N=CC1=CC=CC=C1)C | C12H15N3OS
